US07129233B2
(i) 2,5-Difluoro-4[(methylsulfinyl)(methylthio)methyl]benzonitrile
(Methylsulfinyl)(methylthio)methane (3.16 g, 0.0255 mol) was dissolved in 50 mL of dry THF under argon and then cooled to −78° C. Butyllithium in hexane (16 mL 1.6M, 0.0256 mol) was added dropwise with stirring. The mixture was stirred for 15 min. Meanwhile a solution of 2,4,5-trifluorobenzonitrile (2.0 g; 0.013 mol) in 50 mL of dry THF was cooled to −78° C. under argon and the former solution was added through a cannula to the latter solution over a period of 3–5 min. After 30 min, the cooling bath was removed and when the reaction had reached room temperature it was poured into 200 mL of water. The THF was evaporated and the remaining aqueous layer was extracted three times with diethyl ether. The combined ether phase was washed with water, dried (Na2SO4) and evaporated. The crude product started to crystallise and could be used as such in the next step. Yield: 2.8 g (84%).

reactant | (Methylsulfinyl)(methylthio)methane | 0.0255 mol, 3.16 g | CS(=O)CSC | C3H8OS2
reactant | Butyllithium | C(CCC)[Li]
reactant | hexane | 0.0256 mol, 1.6M, 16 mL | CCCCCC | C6H14
reactant | 2,4,5-trifluorobenzonitrile | 0.013 mol, 2.0 g | FC1=C(C#N)C=C(C(=C1)F)F | C7H2F3N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,5-Difluoro-4[(methylsulfinyl)(methylthio)methyl]benzonitrile | FC1=C(C#N)C=C(C(=C1)C(SC)S(=O)C)F | C10H9F2NOS2
